US08076336B2
Methyl 3-methoxy-5-trifluoromethylbenzoate
3-Hydroxy-5-trifluoromethylbenzoic acid (2 g) was initially charged at RT in DMF (15 ml) while stirring, and admixed dropwise with methyl iodide (3.0 ml). After adding potassium carbonate (5.6 g), the mixture was stirred for 5 h and left to stand overnight. It was then admixed with water and extracted three times with MtB ether. The combined MTB ether phases were dried over sodium sulfate, filtered and concentrated. 2.29 g of the title compound were obtained.

reactant | 3-Hydroxy-5-trifluoromethylbenzoic acid | 2 g | OC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H5F3O3
reactant | methyl iodide | 3.0 ml | CI | CH3I
reactant | potassium carbonate | 5.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Methyl 3-methoxy-5-trifluoromethylbenzoate | 2.29 g | COC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C10H9F3O3
